US06696404B1
Isolation and Purification of Xanthorrizol Having Antibacterial Activity
Fraction II which possesses the strongest antibacterial activity was pooled to isolate substances having antibacterial activity. Since fraction II had some impurities, acetylation of the fraction was carried out to change its polarity as a procedure to obtain a single compound with antibacterial activity: 0.5 g of fraction II was dissolved in 5 ml pyridine, added with 5 ml of acetic anhydride in a drop-wise manner at ice-cold temperature, and stirred at room temperature for more than 15 hours. The reactant was subjected to partition extraction with 100 ml of ice-cold water once, and subsequently 100 ml of ethylacetate twice. The ethylacetate phase thus obtained was washed with 5% HCl, NaHCO3 and NaCl, dehydrated with anhydrous MgSO4, filtered and condensed under a reduced pressure. The resultant was finally applied onto a silica gel column(4.7×50 cm), and eluted with a solvent mixture of hexane and ethylacetate(15:1, v/v) to give an acetylated single compound. Since the single compound showed no antibacterial activity in its acetylated form, deacetylation was performed by dissolving the acetylated single compound in 20 ml of methanol. Then, 2 ml of 5% KOH was added to the compound, reacted with stirring for more than 2 hours, and neutralized using cation exchange resin(DOWEX50WX4-400), followed by filtration and condensation to give a single isolated compound. Thereafter, its molecular weight was measured with EI-MS(VG Platform II, FISIONS, 15 eV), and chemical identification was conducted using analytical instruments of 1H-NMR, 13C-NMR(400 MHz, CDCl3) and IR(Perkin Elmer spectrum I , DTGS detector). The results of the analyses were as follows: IR (CDCl3, v, max) 3402, 2915, 1708, 1620, 1599 cm−1; EI-MS(m/z) 218, 148, 136, 135, 121; 1H-NMR(CDCl3, 400 MHz): 1.18(3H, d, J=7.1 Hz, H-15), 1.52(3H, s, H-13), 1.57(2H, dt, J=7.1, 7.2 Hz, H-8), 1.67(3H, s, H-12), 1.85(2H, dt, J=7.0, 7.2 Hz, H-9), 2.20(3H, s, H-14), 2.59(1H, qt, J=7.1, 7.1 Hz, H-7), 5.08(1H, t, J=7.0 Hz, H-10), 6.59(1H, br s, H-2), 6.66(1H, br d, J=7.6 Hz, H-6), 7.01(1H, d, J=7.6 Hz, H-5); 13C-NMR(CDCl3, 400 MHz): 147.16(s, C-1), 113.50(d, C-2), 153.51(s, C-3), 120.86(s, C-4), 130.74(d, C-5), 119.42(d, C-6), 38.98(d, C-7), 38.32(t, C-8), 26.10(t, C-9), 124.48(d, C-10), 131.39(s, C-11), 15.31(q, C-12), 25.67(q, C-13), 17.64(q, C-14), 22.34(q, C-15). The 1H-NMR spectrum showed 2- or 3-substituted hydroxy-α-curcumene from its aromatic proton signal. Also, through the analysis of chemical shift of 13C-NMR signal, the compound was found to have 1,3,4-substituted benzene ring system. Taken together, the compound was identified as xanthorrizol(1,3,5,10-bisabolatetraen-3-ol), a sequiterpenoid having bisabolane structure, which is colorless oily material having the optical rotation of [α]=−50.2°(C=0.65, CHCl3).

reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOH | 2 ml | [OH-].[K+]
reactant | bisabolane | CC1CCC(CC1)C(C)CCCC(C)C | C15H30
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 20 ml | CO | CH4O
product | Xanthorrizol | CC=1C=CC(=CC1O)[C@H](C)CCC=C(C)C | C15H22O
